US04387158
55.0 parts of resorcinol, 17.8 parts of dimethyl prenylphosphonate and 5.0 parts of Fulmont 23 (trademark) are stirred at 125° C. for 18 hours. The cooled reaction mixture is then diluted with ether, filtered free of catalyst, and poured into 500 parts of water. The oil which separated out is then washed by decantation with water and extracted with ether. Following further washes with sodium bicarbonate solution and water, the ether solution after concentration yields dimethyl 3-(2,4-dihydroxyphenyl)-3-methyl-butane-phosphonate, m.p. 142°-3° C., with the following percentage composition by weight.

reactant | resorcinol | C1(O)=CC(O)=CC=C1 | C6H6O2
reactant | dimethyl prenylphosphonate | C(C=C(C)C)P(OC)(OC)=O | C7H15O3P
solvent | ether | CCOCC | C4H10O
product | dimethyl 3-(2,4-dihydroxyphenyl)-3-methyl-butane-phosphonate | OC1=C(C=CC(=C1)O)C(CCP(OC)(=O)OC)(C)C | C13H21O5P
